US07517910B2
{4-[(2-phenyl-1H-indol-1-yl)methyl]phenyl}methanol
Methyl 4-[(2-phenyl-1H-indol-1-yl)methyl]benzoate (2.8 g, 8.20 mmol) was dissolved in anhydrous tetrahydrofuran (100 mL), and the mixture was ice-cooled. A 1.5 M diisobutylaluminum hydride toluene solution (13.5 mL, 20.3 mmol) was added dropwise to the solution. The solution was stirred under ice-cooling for 4 hr, and aqueous citric acid solution was added to the reaction solution. The mixture was extracted with ethyl acetate. The extract washed with aqueous sodium chloride solution, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was subjected to silica gel column chromatography (ethyl acetate:hexane=1:4-1:2) to give the title compound (2.25 g, yield 88%) as a colorless oil. MS: m/z 314 (MH+).

reactant | Methyl 4-[(2-phenyl-1H-indol-1-yl)methyl]benzoate | 8.20 mmol, 2.8 g | C1(=CC=CC=C1)C=1N(C2=CC=CC=C2C1)CC1=CC=C(C(=O)OC)C=C1 | C23H19NO2
reactant | diisobutylaluminum hydride toluene | 20.3 mmol, 1.5 M, 13.5 mL | C1(=CC=CC=C1)C.[H-].C(C(C)C)[Al+]CC(C)C
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
product | {4-[(2-phenyl-1H-indol-1-yl)methyl]phenyl}methanol | 2.25 g, yield 88% | C1(=CC=CC=C1)C=1N(C2=CC=CC=C2C1)CC1=CC=C(C=C1)CO | C22H19NO
